US07781428B2
A solution of 2-methyl-4-fluoro-benzonitrile (3.5 g, 25.9 mmol) in 40 mL of carbon tetrachloride was treated with N-Bromosuccinimide (4.6 g, 25.9 mmol) and benzoylperoxide (157 mg, 0.65 mmol). The mixture was heated to reflux for 3 hours, cooled to room temperature and allowed to stir overnight. The solids were filtered off and washed with carbon tetrachloride. The filtrate was condensed and purified by normal phase flash column chromatography on a 50 g silica gel column (5-50% ethyl acetate/hexanes gradient). Two peaks separated. It was determined that the second eluting peak is the desired product. Pure fractions of this peak were pooled and concentrated in vacuo to yield 2-(bromomethyl)-4-fluorobenzonitrile (1.35 g, 0.63 mmol, 25% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 4.79 (s, 2H), 7.44 (dt, J=8.59, 2.69 Hz, 1H), 7.68 (dd, J=9.53, 2.55 Hz, 1H), 8.01 (dd, J=8.59, 5.64 Hz, 1H).

reactant | 2-methyl-4-fluoro-benzonitrile | 25.9 mmol, 3.5 g | CC1=C(C#N)C=CC(=C1)F | C8H6FN
reactant | N-Bromosuccinimide | 25.9 mmol, 4.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoylperoxide | 0.65 mmol, 157 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(bromomethyl)-4-fluorobenzonitrile | 0.63 mmol, 1.35 g, 25% yield | BrCC1=C(C#N)C=CC(=C1)F | C8H5BrFN
